US04963543
To a suspension of sodium borohydride (0.5 g) in tetrahydrofuran (30 ml) was dropwise added boron trifluoride etherate (5.8 ml) under ice-cooling. After 30 minutes, a solution of (2S,4R)-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.40 g) in tetrahydrofuran (10 ml) was added to the mixture under ice-cooling, and the mixture was stirred under the same condition for 2 hours and at ambient temperature for 18 hours. The mixture was concentrated under reduced pressure to give a residue. The residue was stirred in a mixture of concentrated hydrochloric acid (4 ml) and methanol (40 ml) at ambient temperature for 16 hours, and evaporated under reduced pressure to give a syrup. To a solution of the syrup in tetrahydrofuran (30 ml) were added triethylamine (1.2 ml) and methanesulfonyl chloride (0.5 ml) in turn under ice-cooling. After stirring for 1 hour, the reaction mixture was poured into a mixture of ethyl acetate (150 ml) and water (100 ml). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (30 g) and eluted with a mixture of methanol and chloroform (3:97 V/V) to give (2S,4R)-2-[2-(methanesulfonylamino)ethyloxymethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.30 g).

reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 5.8 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.40 g | C(N)(=O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O9S
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | methanesulfonyl chloride | 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 ml | CO | CH4O
product | (2S,4R)-2-[2-(methanesulfonylamino)ethyloxymethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.30 g | CS(=O)(=O)NCCOC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H25N3O10S2
